US05536816
16.9 g (0.11 mol) of 3,4-dihydroxybenzoic acid in 170 ml of tetrahydrofuran are treated with 5 g (0.1 mol) of hydrazine hydrate and 1.1 g (0.01 mol) of 1-hydroxy-2-(1H)-pyridone. A solution of 22.7 g (0.11 mol) of dicyclohexylcarbodiimide in 200 ml of tetrahydrofuran is added to the reaction mixture at 20° within 15 minutes. The reaction mixture is stirred at 20° for 16 hours. The resulting dicyclohexylurea is filtered off and the filtrate is evaporated. The residue is stirred with 60 ml of ethanol at 20° for 2 hours and the crystalline crude product is subsequently filtered off under suction and dried firstly in a water-jet vacuum and then in a high vacuum at 40°, whereby 3,4-dihydroxybenzoic acid hydrazide is obtained as a beige powder.

reactant | 3,4-dihydroxybenzoic acid | 0.11 mol, 16.9 g | OC=1C=C(C(=O)O)C=CC1O | C7H6O4
reactant | hydrazine hydrate | 0.1 mol, 5 g | O.NN
reactant | 1-hydroxy-2-(1H)-pyridone | 0.01 mol, 1.1 g | ON1C(C=CC=C1)=O | C5H5NO2
reactant | dicyclohexylcarbodiimide | 0.11 mol, 22.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3,4-dihydroxybenzoic acid hydrazide | OC=1C=C(C(=O)NN)C=CC1O | C7H8N2O3
